US05478858
A mixture of N-(4,7-dimethyl-5-benzimidazolyl)-N'-2-aminoethylthiourea (0.77 g) and cupric acetate (0.81 g) in methanol (100 mL) is stirred at 65°-70° C. for 40 minutes. The mixture is cooled to room temperature, NaHS.xH2O is added and the resulting mixture is stirred for 10 minutes at room temperature. The mixture is acidified to pH=3 with 1N HCl and filtered on Celite. The filtrate is basified to pH=9 with 50% sodium hydroxide and rotary evaporated. The syrupy residue is diluted with water (20 mL) and lyophilized. The solid residue is purified by flash chromatography on a short pad of silica gel, eluting first with 10% methanol/chloroform containing 0.1% ammonium hydroxide, then 30% methanol/chloroform containing 1% ammonium hydroxide. The product-containing fractions are collected and rotary evaporated. The residue is diluted with water (5 mL) and lyophilized to afford 4,7-dimethyl-5-(2-imidazolinylamino)benzimidazole as a yellow glassy solid. A fumarate salt is obtained by treating a solution of 4,7-dimethyl-5-(2-imidazolinylamino)benzimidazole in methanol (20 mL) with fumaric acid (0.278 g). The mixture is heated to achieve solubilization, then cooled to room temperature. The precipitate is filtered and recrystallized twice from methanol/water to afford 4,7-dimethyl-5-(2-imidazolinylamino)benzimidazole sesquifumarate.

reactant | N-(4,7-dimethyl-5-benzimidazolyl)-N'-2-aminoethylthiourea | 0.77 g | CC1=C(C=C(C=2N=CNC21)C)NC(=S)NCCN | C12H17N5S
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | 4,7-dimethyl-5-(2-imidazolinylamino)benzimidazole | CC1=C(C=C(C=2N=CNC21)C)NN2C=NCC2 | C12H15N5
